US05405870
3-(5-Hydroxypentylidene)-7,7-ethylenedioxy-cis-bicyclo[3,3,0]octane
49.10 g of 3-(4-carboxybutylidene)-7,7-ethylenedioxy-cis-bicyclo[3,3,0]octane (prepared as described in Preparation 1) in 150 ml of tetrahydrofuran were added dropwise to a suspension of 10.50 g of lithium aluminum hydride in 675 ml of tetrahyarofuran, whilst cooling with ice. The mixture was then heated under reflux for 80 minutes. Upon completion of the reaction, 42 ml of a 4% w/v aqueous solution of sodium hydroxide were added, and the mixture was stirred at room temperature. The resulting precipitate was removed by filtration, and the filtrate was condensed by evaporation under reduced pressure, giving 46.90 g of a residue. On purifying the residue by silica gel column chromatography, 40.10 g of the title compound were obtained as an oil, from the fractions eluted with hexane containing 20-30% by volume of ethyl acetate.

reactant | 3-(4-carboxybutylidene)-7,7-ethylenedioxy-cis-bicyclo[3,3,0]octane | 49.10 g | C(=O)(O)CCCC=C1C[C@@H]2CC3(C[C@@H]2C1)OCCO3 | C15H22O4
reactant | lithium aluminum hydride | 10.50 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 3-(5-Hydroxypentylidene)-7,7-ethylenedioxy-cis-bicyclo[3,3,0]octane | 46.90 g | OCCCCC=C1C[C@@H]2CC3(C[C@@H]2C1)OCCO3 | C15H24O3
